US05087640
To a solution of 4.5 g of N-(3,5-dichlorophenyl)-N'-(1-ethyl-1-methylpropyl)thiourea produced in Example A-5 and 5.8 g of triphenylphosphine in 60 ml of dichloromethane were added 2.2 g of triethylamine and 3.4 g of carbon tetrachloride. The mixture was refluxed for 4 hours, cooled to room temperature and evaporated in vacuo. The residue was stirred with n-hexane and the resulting solid matter was removed by filtration. The filtrate was evaporated to give N-(3,5-dichlorophenyl)-N'-(1-ethyl-1-methylpropyl)carbodiimide as an oil. To a solution of this oil in 20 ml of DMF were added 3.4 g of cyanamide and 0.1 ml of diisopropylethylamine. The mixture was stirred at 100° C. for 40 minutes, cooled to room temperature and poured into water. The resulting crystals were filtered off and recrystallized from benzene to give 3.5 g of the title compound as colorless flakes melting at 148.0°-150.0° C.

reactant | N-(3,5-dichlorophenyl)-N'-(1-ethyl-1-methylpropyl)thiourea | 4.5 g | ClC=1C=C(C=C(C1)Cl)NC(=S)NC(CC)(C)CC | C13H18Cl2N2S
reactant | triphenylphosphine | 5.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 2.2 g | C(C)N(CC)CC | C6H15N
reactant | carbon tetrachloride | 3.4 g | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | N-(3,5-dichlorophenyl)-N'-(1-ethyl-1-methylpropyl)carbodiimide | ClC=1C=C(C=C(C1)Cl)N=C=NC(CC)(C)CC | C13H16Cl2N2
